US09255074B2
Alternative Preparation of N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide (Compound (A-1))
A 450-mL, stainless steel Parr® pressure reactor equipped with an overhead stirrer was charged with tris(dibenzylideneacetone)dipalladium(0) (0.105 g, 0.115 mmol), di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine (0.133 g, 0.275 mmol) and milled potassium phosphate tribasic (5.35 g, 25.2 mmol). The flask was purged with argon for not less than 90 minutes. 2-Methyltetrahydrofuran (70 mL) was taken in a 100-mL round bottom flask, purged with argon for not less than 30 minutes and was transferred to the 450-mL reactor using a cannula under argon atmosphere. The contents of the 450-mL reactor were heated to 80° C. and stirred at this temperature for 30 minutes. A 250-mL, round bottom flask equipped with a magnetic stir bar was charged with 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate (16.0 g, 22.9 mmol), methanesulfonamide (2.61 g, 27.5 mmol) and 2-methyltetrahydrofuran (155 mL), purged with argon for not less than 60 minutes. This solution was transferred to the 450-mL reactor that has been cooled to the room temperature using a cannula under argon atmosphere. The temperature of the 450-mL flask was raised to 90° C. and the contents were stirred for 14 hours. The reaction mixture was allowed to cool down to 70° C., diluted with ethyl acetate (190 mL) and stirred for 3 hours at 70° C., cooled to the room temperature, stirred for an additional 4 hours, filtered through a fine fit filter funnel and rinsed with ethyl acetate (90 mL) to obtain 29.4 g of light brown solid. A portion of this solid (13.04 g) was transferred to a 500-mL, 3-neck round bottom flask equipped with an overhead stirrer and a thermocouple. Tetrahydrofuran (175 mL) was added, followed by the addition of water 50 mL containing L-cysteine (0.63 g) and sodium chloride (5.5 g). The reaction mixture was stirred for 2 hours at 50° C. under a slight positive pressure of argon. The reaction mixture was transferred to a 500-mL separatory funnel and the aqueous layer was discarded. The organic layer was filtered through an approximately 2-inch pad of diatomaceous earth and rinsed with tetrahydrofuran (45 mL) to obtain a clear, light yellow solution. The organic layer was concentrated to a total weight of 45.59 g. A portion of this organic solution (41.58 g) was charged to a 250-mL, 3-neck round bottom flask fitted with an overhead stirrer. Ethyl acetate (80 mL) was added over 6 hours by a pump with constant stirring at room temperature. The product was collected by filtration, rinsed with ethyl acetate (20 mL) and dried in a vacuum oven for 2 hours to obtain 3.17 g of the title compound (>99.8 pure and 94.6% potent vs. standard).

reactant | potassium phosphate tribasic | 25.2 mmol, 5.35 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | 22.9 mmol, 16.0 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=C(C(=CC(=C1)N1C(NC(C=C1)=O)=O)C(C)(C)C)OC)F | C29H23F9N2O6S
reactant | methanesulfonamide | 27.5 mmol, 2.61 g | CS(=O)(=O)N | CH5NO2S
reactant | 2-methyltetrahydrofuran | 155 mL | CC1OCCC1 | C5H10O
reactant | L-cysteine | 0.63 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | sodium chloride | 5.5 g | [Cl-].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.115 mmol, 0.105 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine | 0.275 mmol, 0.133 g | C(C)(C)(C)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C31H49O2P
solvent | water | 50 mL | O | H2O
solvent | Tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
product | N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide | 3.17 g, 94.6% | C(C)(C)(C)C=1C(=C(C=C(C1)N1C(NC(C=C1)=O)=O)C=1C=C2C=CC(=CC2=CC1)NS(=O)(=O)C)OC | C26H27N3O5S
